US07989454B2
4-[3-{6-[3-(3,3-difluoro-pyrrolidine-1-carbonyl)-5-thiophen-3-yl-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester
The title compound was prepared by the same method as 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester starting from 4-[3-{6-[3-bromo-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (114 mg, 0.163 mmol), thiophen-3-ylboronic acid (42.57 mg, 0.326 mmol), PdCl2(dppf) (17.94 mg, 0.025 mmol) and cesium carbonate (107.5 mg, 0.326 mmol) in dimethoxyethane (3.7 mL) to obtain 4-[3-{6-[3-(3,3-difluoro-pyrrolidine-1-carbonyl)-5-thiophen-3-yl-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (90 mg, 79%) as a colorless oil.

reactant | 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F)CCC(=O)OCC)=O | C38H47F2NO7
reactant | 4-[3-{6-[3-bromo-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 0.163 mmol, 114 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(=O)N1CC(CC1)(F)F)Br)CCC(=O)OCC)=O | C34H44BrF2NO7
reactant | thiophen-3-ylboronic acid | 0.326 mmol, 42.57 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | cesium carbonate | 0.326 mmol, 107.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethoxyethane | 3.7 mL | C(OC)COC | C4H10O2
catalyst | PdCl2(dppf) | 0.025 mmol, 17.94 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-{6-[3-(3,3-difluoro-pyrrolidine-1-carbonyl)-5-thiophen-3-yl-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 90 mg, 79% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C1=CSC=C1)C(=O)N1CC(CC1)(F)F)CCC(=O)OCC)=O | C38H47F2NO7S
